US07544812B2
3-(4-{2-[1-(4-Chloro-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-(2-fluoro-phenoxy)-2-methyl-propionic acid
4-Chlorobenzyl bromide (0.037 g, 0.179 mmol) and tetrabutyl ammonium iodide (catalytic amount) are added to a 0° C. suspension of 2-(2-Fluoro-phenoxy)-2-methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester (0.053 g, 0.119 mmol) and sodium hydride (0.012 g, 0.298 mmol, 60% suspension on mineral oil), pre-stirred for 1 h at ambient temperature. The reaction mixture is stirred at ambient temperature for 18 h, diluted with ethyl acetate, and washed. The organic layer is dried, concentrated, and purified by LCMS to provide the title compound. 1H NMR (400 MHz, CDCl3): δ 7.31-7.21 (m, 4H), 7.16 (d, 2H, J=8.3 Hz), 7.11-7.00 (m, 4H), 6.74 (d, 2H, J=8.3 Hz), 4.33, 4.31 (ABq, 2H, J=15.5 Hz), 3.96 (t, 2H, J=6.0 Hz), 3.71-3.64 (m, 1H), 3.39 (t, 1H, J=8.3 Hz), 3.29, 3.17 (ABq, 2H, J=14.3 Hz), 3.01 (t, 1H, J=8.3 Hz), 2.84 (s, 3H), 2.25-2.20 (m, 1H), 1.93-1.84 (m, 1H), 1.41 (s, 3H). MS [ES+] m/z exact mass calcd for C29H31N2O5 541.1906, found 541.1913.

reactant | 4-Chlorobenzyl bromide | 0.179 mmol, 0.037 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | 2-(2-Fluoro-phenoxy)-2-methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester | 0.119 mmol, 0.053 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(NC1)=O)C)(C)OC1=C(C=CC=C1)F)=O | C24H29FN2O5
reactant | sodium hydride | 0.298 mmol, 0.012 g | [H-].[Na+]
catalyst | tetrabutyl ammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-{2-[1-(4-Chloro-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-(2-fluoro-phenoxy)-2-methyl-propionic acid | ClC1=CC=C(CN2C(N(C(C2)CCOC2=CC=C(C=C2)CC(C(=O)O)(C)OC2=C(C=CC=C2)F)C)=O)C=C1 | C29H30ClFN2O5
